US08710043B2
Step 8. (S)-4-Amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-5-methoxypicolinamide
To a stirred suspension of Raney Nickel (0.4 g, Monarch, India) in MeOH (10 mL) was added (S)—N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-5-methoxy-4-nitropicolinamide (700 mg, 0.0014 mol) at rt. The reaction mixture was stirred under a hydrogen balloon for 2 h. After completion of the reaction, monitored by TLC (TLC eluent: 50% EtOAc in petroleum ether), the reaction mixture was filtered through Celite® brand filter agent and concentrated. The resulting product was triturated with petroleum ether to give the title compound as a white solid. MS (ESI, positive ion) m/z: 455.2 (M+H).

reactant | (S)—N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-5-methoxy-4-nitropicolinamide | 0.0014 mol, 700 mg | FC=1C=C(C=CC1OC(F)(F)F)[C@H](NC(C1=NC=C(C(=C1)[N+](=O)[O-])OC)=O)C1=NC=CC=C1F | C20H13F5N4O5
reactant | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Raney Nickel | 0.4 g | [Ni] | Ni
solvent | MeOH | 10 mL | CO | CH4O
product | (S)-4-Amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-5-methoxypicolinamide | NC1=CC(=NC=C1OC)C(=O)N[C@H](C1=NC=CC=C1F)C1=CC(=C(C=C1)OC(F)(F)F)F | C20H15F5N4O3
